US04118572
In an analogous manner to that described in Example 6, 30 g. of 2-amino-10,11-dihydro-dibenz[b,f]oxepin-10-one are diazotized with 12 g. of sodium nitrite is methanesulfonic acid solution. The solution obtained is poured into a mixture of 540 ml. of ethyl acetate and a solution of 57.2 g. of copper (I) bromide in 666 ml. of 48% hydrobromic acid. After 10 minutes, the mixture is worked-up in the same manner as described in Example 6, and there is obtained 2-bromo-10,11-dihydro-dibenz[b,f]oxepin-10-one having a melting point of 53°-54° C. The product is reacted further in an analogous manner to that described in Example 1 to give the desired starting material, 1-[2-bromo-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-piperazine having a melting point of 93°-94° C. The following intermediates are obtained:

reactant | 2-amino-10,11-dihydro-dibenz[b,f]oxepin-10-one | NC1=CC2=C(OC3=C(C(C2)=O)C=CC=C3)C=C1 | C14H11NO2
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | hydrobromic acid | Br | BrH
catalyst | copper (I) bromide | [Cu]Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromo-10,11-dihydro-dibenz[b,f]oxepin-10-one | BrC1=CC2=C(OC3=C(C(C2)=O)C=CC=C3)C=C1 | C14H9BrO2
